US09359358B2
Step 4: 6-[(cis-4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-N,N-dimethyl-2-(trifluoromethyl)pyrimidine-4-carboxamide bis(trifluoroacetate)
N,N-Diisopropylethylamine (10.31 μL, 0.05920 mmol) and 6-[(cis-4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidine-4-carboxylic acid (20.00 mg, 0.02866 mmol) were dissolved in N,N-dimethylformamide (0.53 mL) and N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (19.60 mg, 0.05154 mmol) in N,N-dimethylformamide (1.00 mL) was added. The reaction mixture was stirred for 10 minutes and dimethylamine hydrochloride (6.09 mg, 0.0747 mmol) was added. The reactions were stirred at 25° C. overnight at which time LCMS analysis showed that the reaction was mostly complete and was purified by LC and evaporated and deprotected as in Example 1 (CH2Cl2/TFA; MeOH/NH4OH) and purified to give the product. 1H NMR (300 MHz, CD3OD) δ 9.11 (s, 1H), 8.90 (s, 1H), 8.60 (s, 1H), 7.82 (d, 114), 7.28 (d, 1H), 7.18 (s, 1H), 5.52 (m, 1H), 5.10 (d, 2H), 4.90 (d, 2H), 3.74 (s, 2H), 3.53 (m, 1H), 3.12 and 3.04 (2 s, 3H), 2.30 (m, 2H), 2.03 (m, 2H), 1.75 (m, 4H). MS (ES): 595(M+1).

reactant | N,N-Diisopropylethylamine | 0.05920 mmol, 10.31 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-[(cis-4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidine-4-carboxylic acid | 0.02866 mmol, 20.00 mg | C(#N)CC1(CN(C1)[C@H]1CC[C@H](CC1)OC1=CC(=NC(=N1)C(F)(F)F)C(=O)O)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C32H38F3N9O4Si
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.05154 mmol, 19.60 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | dimethylamine hydrochloride | 0.0747 mmol, 6.09 mg | Cl.CNC
reactant | N,N-dimethylformamide | 0.53 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 1.00 mL | CN(C=O)C | C3H7NO
product | 6-[(cis-4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-N,N-dimethyl-2-(trifluoromethyl)pyrimidine-4-carboxamide bis(trifluoroacetate) | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.C(#N)CC1(CN(C1)[C@H]1CC[C@H](CC1)OC1=CC(=NC(=N1)C(F)(F)F)C(=O)N(C)C)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | InChI=1S/C28H29F3N10O2.2C2HF3O2/c1-39(2)25(42)21-11-22(38-26(37-21)28(29,30)31)43-19-5-3-18(4-6-19)40-14-27(15-40,8-9-32)41-13-17(12-36-41)23-20-7-10-33-24(20)35-16-34-23;2*3-2(4,5)1(6)7/h7,10-13,16,18-19H,3-6,8,14-15H2,1-2H3,(H,33,34,35);2*(H,6,7)/t18-,19+;;
